US04009127
cyclotridecanone: 200 ml of a 50 % aqueous solution of NaOH were added dropwise under vigorous stirring to a mixture of 132 g of cyclododecene (CHEMICAL SAMPLE Co - Columbus, Ohio - USA), 600 g of bromoform and 4 g of tetramethylammonium bromide. The mixture was then left at a temperature between 40° and 50° under stirring during 2 h, whereupon it was left at room temperature overnight and diluted with water. Finally the reaction mixture was extracted with 3 fractions of 300 ml each of ether. The combined extracts, after the usual treatments of washing, drying and evaporation, gave a residue which upon fractional distillation under reduced pressure yielded 173 g (92 %) of 2,2-dibromo-bicyclo[10.1.0]tridecane.

reactant | cyclotridecanone | C1(CCCCCCCCCCCC1)=O | C13H24O
reactant | NaOH | [OH-].[Na+]
reactant | cyclododecene | 132 g | C1=CCCCCCCCCCC1 | C12H22
reactant | bromoform | 600 g | C(Br)(Br)Br | CHBr3
catalyst | tetramethylammonium bromide | 4 g | [Br-].C[N+](C)(C)C
solvent | water | O | H2O
product | 2,2-dibromo-bicyclo[10.1.0]tridecane | 173 g, 92 % | BrC1(C2CC2CCCCCCCCC1)Br | C13H22Br2
